### PR TITLE
feat: BitVec.neg_mul_not_eq_add_mul

### PR DESCRIPTION
**Pull request by bollu**
This PR implements the Bitwuzla rewrite rule [NORM_BV_ADD_MUL](https://github.com/bitwuzla/bitwuzla/blob/e09c50818b798f990bd84bf61174553fef46d561/src/rewrite/rewrites_bv_norm.cpp#L19-L23), and the associated lemmas to allow for expedient rewriting:

```lean
theorem neg_add_mul_eq_mul_not {x y : BitVec w} : - (x + x * y) = x * ~~~ y
```

### CODE REVIEW

**Comment by bollu** [comment]
changelog-library

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -3168,6 +3171,13 @@ theorem add_neg_eq_sub {x y : BitVec w} : x + - y = (x - y) := by
   apply eq_of_toInt_eq
   simp [toInt_neg, Int.sub_eq_add_neg]
 
+theorem sub_neg {x y : BitVec w} : x - - y = x + y := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:3174]: Should this be `@[simp]`?

**Review by tobiasgrosser — APPROVED** [review]

**Review by tobiasgrosser — APPROVED** [review]
LGTM.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -3336,11 +3347,20 @@ protected theorem neg_mul_neg (x y : BitVec w) : -x * -y = x * y := by simp
...
 theorem neg_add_mul_eq_mul_not {x y : BitVec w} :
     - (x + x * y) = x * ~~~ y := by
   rw [neg_add, sub_toAdd, ← BitVec.mul_neg, neg_eq_not_add y, mul_add,
-    BitVec.mul_one, BitVec.add_comm, BitVec.add_assoc, BitVec.add_right_eq_self,
-    add_neg_eq_sub, BitVec.sub_self]
+    BitVec.mul_one, BitVec.add_comm, BitVec.add_assoc,
+    BitVec.add_right_eq_self, add_neg_eq_sub, BitVec.sub_self]
+
+theorem neg_mul_not_eq_add_mul {x y : BitVec w} :
+ - (x * ~~~ y) = x + x * y := by
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Lemmas.lean:3361]: This indentation is off.
```suggestion
    - (x * ~~~ y) = x + x * y := by
```
